US05686454
1-((7,7-Dimethyl-2-oxo-bicyclo(2.2.1)heptan-1-yl)methanesulfonyl)-4-(2-methylphenyl )piperazine
To a stirred, 0° C. solution of 1-(o-tolyl) piperazine hydrochloride (50.0 g; 235 mmol) and TEA (83 mL; 590 mmol) in chloroform (1000 mL) was added (+)-10-camphorsulfonyl chloride (65.5 g; 260 mmol). The solution was stirred at 0° C. for 1 h and then at ambient temperature for 3 h. The solution was extracted with 5% aqueous HCl (2×500 mL), water (500 mL), and saturated aqueous NaHCO3 (2×500 mL). The organic phase was dried (MgSO4), filtered, and the solvent was removed under reduced pressure. The resulting solid was recrystallized from methanol to give the title compound, mp 112°-114° C. (69 g; 75%).

reactant | 1-(o-tolyl) piperazine hydrochloride | 235 mmol, 50.0 g | Cl.C1(=C(C=CC=C1)N1CCNCC1)C
reactant | (+)-10-camphorsulfonyl chloride | 260 mmol, 65.5 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)Cl)C | C10H15ClO3S
solvent | chloroform | 1000 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-((7,7-Dimethyl-2-oxo-bicyclo(2.2.1)heptan-1-yl)methanesulfonyl)-4-(2-methylphenyl )piperazine | CC1(C2(C(CC1CC2)=O)CS(=O)(=O)N2CCN(CC2)C2=C(C=CC=C2)C)C | C21H30N2O3S
